US04198424
2-[1-(n-hexyl)-2-pyrrolidinyl]-1-(3-methoxyphenyl)ethanone
5.11 g of 1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanone hydrochloride, 5.6 g of anhydrous potassium carbonate, 3.7 g of 1-bromohexane and 60 ml of ethyl methyl ketone are heated under reflux for 18 hours. The solvent is distilled off, the residue is taken up with 50 ml of water and extraction is effected twice with, in each case, 50 ml of diethyl ether. After drying over sodium sulfate, the united organic phases are concentrated to an oil, which is distilled under a high vacuum to obtain 5.0 g (82% of theory) of the title compound: b.p. 138° to 144° at 0.005 mm Hg.

reactant | 1-(3-methoxyphenyl)-2-(2-pyrrolidinyl)-ethanone hydrochloride | 5.11 g | Cl.COC=1C=C(C=CC1)C(CC1NCCC1)=O
reactant | potassium carbonate | 5.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromohexane | 3.7 g | BrCCCCCC | C6H13Br
solvent | ethyl methyl ketone | 60 ml | CC(=O)CC | C4H8O
product | 2-[1-(n-hexyl)-2-pyrrolidinyl]-1-(3-methoxyphenyl)ethanone | C(CCCCC)N1C(CCC1)CC(=O)C1=CC(=CC=C1)OC | C19H29NO2
